US08357705B2
N4-(2-(1H-indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl)-N1,N1-dimethyl-1-phenylcyclohexane-1,4-diamine (Example 27, non-polar diastereomer)
A suspension of N-(2-(1H-Indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl)-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide (non-polar diastereomer) (200 mg, 0.38 mmol) in methanol (10 mL) was mixed with 37% hydrochloric acid (10 mL) and stirred for 7 h at 100° C. in a Teflon pressure vessel. Methanol (10 mL) and 37% hydrochloric acid (10 mL) was then added again and the mixture stirred a further 6 h at 100° C. The reaction solution was then concentrated to low volume in a vacuum and the residue (250 mg) purified by flash chromatography (37 g, 20×2.1 cm) with dichloromethane/methanol [8:2+1% NH3 (32% in H2O)].

reactant | N-(2-(1H-Indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl)-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide | 0.38 mmol, 200 mg | N1C=C(C2=CC=CC=C12)CC(C1=NN=NN1)N(C(C(F)(F)F)=O)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H30F3N7O
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | Methanol | 10 mL | CO | CH4O
product | N4-(2-(1H-indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl)-N1,N1-dimethyl-1-phenylcyclohexane-1,4-diamine | N1C=C(C2=CC=CC=C12)CC(C1=NN=NN1)NC1CCC(CC1)(N(C)C)C1=CC=CC=C1 | C25H31N7
